US08624034B2
Step C) (2R)-4-{5-Fluoro-4-[4-(methylthio)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide
N,N-Diisopropylethylamine (450 uL, 2.45 mmol), O-(tetrahydro-2H-pyran-2-yl)hydroxylamine (192 mg, 1.64 mmol) and HATU (447 mg, 1.23 mmol) were added to a solution of (2R)-4-{5-fluoro-4-[4-(methylthio)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid (339 mg, 0.82 mmol) in DMF (10 mL). The reaction was allowed to stir at rt for 18 h. The reaction mixture was diluted with EtOAc and washed with brine. The organics were dried (MgSO4), filtered and concentrated. The crude residue was purified via flash chromatography using a 40 g silica column and an eluent of EtOAc in n-heptane (0-100%) to afford the title compound (420 mg, 100%). MS (LCMS) m/z 511.4 (M−1).

reactant | N,N-Diisopropylethylamine | 2.45 mmol, 450 uL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | O-(tetrahydro-2H-pyran-2-yl)hydroxylamine | 1.64 mmol, 192 mg | O1C(CCCC1)ON | C5H11NO2
reactant | HATU | 1.23 mmol, 447 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R)-4-{5-fluoro-4-[4-(methylthio)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)butanoic acid | 0.82 mmol, 339 mg | FC=1C(=CC(N(C1)CC[C@](C(=O)O)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)SC | C18H20FNO5S2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2R)-4-{5-Fluoro-4-[4-(methylthio)phenyl]-2-oxopyridin-1(2H)-yl}-2-methyl-2-(methylsulfonyl)-N-(tetrahydro-2H-pyran-2-yloxy)butanamide | 420 mg, 100% | FC=1C(=CC(N(C1)CC[C@](C(=O)NOC1OCCCC1)(S(=O)(=O)C)C)=O)C1=CC=C(C=C1)SC | C23H29FN2O6S2
